US04092150
A stirred solution of 6.3 grams of 2,4,6-trichloro-5-pyrimidinecarbonitrile in 25 ml of acetone was cooled to -10°, and 2.5 grams of 2-amino-2-methylpropionitrile was added. With the reaction mixture at -10°, a solution of 1.3 grams of sodium hydroxide in 3.5 ml of water was added dropwise. Upon complete addition, the reaction mixture was stirred at -10° for 30 minutes. The acetone was removed under reduced pressure; the residue was extracted with diethyl ether, and the extract was separated and dried over magnesium sulfate. The extract was filtered, and the filtrate was evaporated under reduced pressure, yielding a residue. The residue was recrystallized from methylcyclohexane to give 3.1 grams of 4,6-dichloro-2-(1-cyano-1-methylethylamino)-5-pyrimidinecarbonitrile; mp, 154-158°.

reactant | 2,4,6-trichloro-5-pyrimidinecarbonitrile | 6.3 grams | ClC1=NC(=C(C(=N1)Cl)C#N)Cl | C5Cl3N3
reactant | 2-amino-2-methylpropionitrile | 2.5 grams | NC(C#N)(C)C | C4H8N2
reactant | sodium hydroxide | 1.3 grams | [OH-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | 3.5 ml | O | H2O
product | 4,6-dichloro-2-(1-cyano-1-methylethylamino)-5-pyrimidinecarbonitrile | 3.1 grams | ClC1=NC(=NC(=C1C#N)Cl)NC(C)(C)C#N | C9H7Cl2N5
